### PR TITLE
[Merged by Bors] - feat(CStarAlgebra): `a => a ^ p` is operator monotone for `p ∈ Icc 0 1`

### PR DESCRIPTION
**Pull request by dupuisf**
This PR shows that `a => a ^ p` is operator monotone for `p ∈ Icc 0 1`, i.e. that `CFC.nnrpow`, `CFC.rpow` and `CFC.sqrt` are monotone, using the integral representation for the power function.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Algebra/Spectrum/Quasispectrum.lean [hunk 1]
```diff
@@ -400,6 +400,12 @@ lemma iff_spectrum_nonneg {𝕜 A : Type*} [Semifield 𝕜] [LinearOrder 𝕜] [
 
 alias ⟨_, of_spectrum_nonneg⟩ := iff_spectrum_nonneg
 
+lemma nonneg_of_mem_quasispectrum {𝕜 : Type*} [CommSemiring 𝕜] [PartialOrder 𝕜] [PartialOrder A]
+    [Module 𝕜 A] [NonnegSpectrumClass 𝕜 A] {a : A} (ha : 0 ≤ a) {x : 𝕜}
+    (hx : x ∈ quasispectrum 𝕜 a) : 0 ≤ x := quasispectrum_nonneg_of_nonneg a ha x hx
```
Comment (j-loreaux) [inline Mathlib/Algebra/Algebra/Spectrum/Quasispectrum.lean:405]: I'm confused about the purpose of this lemma. Is it just changing argument explicitness? Does `grind` need that? In any case, why don't we just fix the explicitness in the definition of `NonnegSpectrumClass`.

File: Mathlib/Analysis/Normed/Algebra/Spectrum.lean [hunk 2]
```diff
@@ -89,6 +89,7 @@ variable [CompleteSpace A]
 theorem isOpen_resolventSet (a : A) : IsOpen (ρ a) :=
   Units.isOpen.preimage ((continuous_algebraMap 𝕜 A).sub continuous_const)
 
+@[simp, grind]
 protected theorem isClosed (a : A) : IsClosed (σ a) :=
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Algebra/Spectrum.lean]: Probably you should mark the `ℝ≥0` variants of all these too.

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean [hunk 3]
```diff
@@ -128,6 +134,38 @@ lemma aestronglyMeasurable_rpowIntegrand₀₁ (hp : p ∈ Ioo 0 1) (hx : 0 ≤
...
+  refine ContinuousOn.congr (f := g) ?_ fun q => ?_
+  · simp only [g]
+    refine ContinuousOn.mul ?_ ?_
+    · refine ContinuousOn.mul ?_ (by fun_prop)
+      exact ContinuousOn.rpow_const (by fun_prop) fun _ _ => Or.inl (by aesop)
+    · refine ContinuousOn.inv₀ (by fun_prop) fun t ht => ?_
+      simp only [mem_Ioo] at *
+      have h₁ : (0 : ℝ) < t.1 := ht.1
+      have h₂ : (0 : ℝ) ≤ t.2 := hs ht.2
+      linarith
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean]: I want `fun_prop` to solve this.

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean [hunk 4]
```diff
@@ -128,6 +134,38 @@ lemma aestronglyMeasurable_rpowIntegrand₀₁ (hp : p ∈ Ioo 0 1) (hx : 0 ≤
     AEStronglyMeasurable (rpowIntegrand₀₁ p · x) (volume.restrict (Ioi 0)) :=
   (continuousOn_rpowIntegrand₀₁ hp hx).aestronglyMeasurable measurableSet_Ioi
 
+lemma monotoneOn_rpowIntegrand₀₁ (hp : p ∈ Ioo 0 1) (ht : 0 ≤ t) :
+    MonotoneOn (rpowIntegrand₀₁ p t) (Ici 0) := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean]: I was recently reminded of this naming convention (suggestion to adhere below), which I personally hate. If you want to advocate on Zulip to abolish it, I would certainly be in favor.
```suggestion
lemma rpowIntegrand₀₁_monotoneOn (hp : p ∈ Ioo 0 1) (ht : 0 ≤ t) :
    MonotoneOn (rpowIntegrand₀₁ p t) (Ici 0) := by
```

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean [hunk 5]
```diff
@@ -128,6 +134,38 @@ lemma aestronglyMeasurable_rpowIntegrand₀₁ (hp : p ∈ Ioo 0 1) (hx : 0 ≤
...
+  intro x hx y hy hxy
+  by_cases h : x = 0 ∧ t = 0
+  case pos => simp [h, rpowIntegrand₀₁_nonneg hp.1 le_rfl hy]
+  case neg =>
+    simp only [rpowIntegrand₀₁]
+    gcongr
+    by_cases 0 < t
+    · apply add_pos_of_pos_of_nonneg <;> grind
+    · apply add_pos_of_nonneg_of_pos <;> grind [← lt_of_le_of_ne]
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean]: This is a slightly nicer case split
```suggestion
  by_cases h : x = 0
  case pos => simpa [h, rpowIntegrand₀₁] using rpowIntegrand₀₁_nonneg hp.1 ht hy
  case neg =>
    simp only [rpowIntegrand₀₁, mem_Ici] at hx h ⊢
    gcongr
```

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean [hunk 6]
```diff
@@ -167,6 +205,25 @@ lemma rpowIntegrand₀₁_one_ge_rpow_sub_two (hp : p ∈ Ioo 0 1) (ht : 1 ≤ t
...
+    _ = t ^ (p - 1) * (1 - (1 + x * t⁻¹)⁻¹) := by
+          have : t ≠ 0 := ne_of_gt ht
+          rw [Real.rpow_sub_one this, div_eq_mul_inv, mul_assoc]
+          congr
+          field_simp [this]
+    _ = t ^ (p - 1) * (1⁻¹ - (1 + x * t⁻¹)⁻¹) := by simp
+    _ = t ^ (p - 1) * (rpowIntegrand₀₁ p 1 (x * t⁻¹)) := by simp [rpowIntegrand₀₁]
+    _ = _ := by
+          congr 2
+          rw [mul_comm, smul_eq_mul]
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean]: I guess if you have reason to be more verbose here (e.g., because you think it's easier to read), that's fine, but Lean can do a lot of this without the hand-holding.
```suggestion
  calc _ = t ^ p * (t⁻¹ - t⁻¹ * (1 + x * t⁻¹)⁻¹) := by field_simp [rpowIntegrand₀₁]
    _ = t ^ (p - 1) * (1 - (1 + x * t⁻¹)⁻¹) := by
          have : t ≠ 0 := ne_of_gt ht
          rw [Real.rpow_sub_one this, div_eq_mul_inv, mul_assoc]
          field_simp [this]
    _ = _ := by simp [mul_comm, smul_eq_mul, rpowIntegrand₀₁]
```

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean [hunk 7]
```diff
@@ -283,20 +340,234 @@ lemma rpow_eq_const_mul_integral (hp : p ∈ Ioo 0 1) (hx : 0 ≤ x) :
...
+          refine cfcₙ_comp_smul (R := ℝ) t⁻¹ (fun x => rpowIntegrand₀₁ p 1 x) a ?_
+          refine ContinuousOn.mono (s := Ici 0) ?_ ?_
+          · exact continuousOn_rpowIntegrand₀₁_Ici hp zero_lt_one
+          · intro x hx
+            rw [Set.mem_image] at hx
+            obtain ⟨r, hr₁, hr₂⟩ := hx
+            rw [← hr₂]
+            change 0 ≤ t⁻¹ • r
+            have : 0 ≤ r := quasispectrum_nonneg_of_nonneg a ha r hr₁
+            positivity
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean]: This `h_mapsTo` clause was repeated in the original proof.
```suggestion
  have hspec : quasispectrum ℝ a ⊆ Ici 0 := by intro; grind
  have h_mapsTo : MapsTo (t⁻¹ • · : ℝ → ℝ) (Ici 0) (Ici 0) := by
    intro x hx
    simp only [mem_Ici, smul_eq_mul] at hx ⊢
    positivity
  calc _ = cfcₙ (fun x => t ^ ((p : ℝ) - 1) * (rpowIntegrand₀₁ p 1 (t⁻¹ • x))) a := by
          refine cfcₙ_congr ?_
          refine Set.EqOn.mono hspec (rpowIntegrand₀₁_eqOn_mul_rpowIntegrand₀₁_one ht)
    _ = t ^ ((p : ℝ) - 1) • cfcₙ (fun x => rpowIntegrand₀₁ p 1 (t⁻¹ • x)) a := by
          refine cfcₙ_smul (R := ℝ) (t ^ ((p : ℝ) - 1)) _ a ?_
          refine ContinuousOn.mono ?_ hspec
          have := continuousOn_rpowIntegrand₀₁_Ici hp zero_lt_one
          fun_prop (disch := assumption)
    _ = t ^ ((p : ℝ) - 1) • cfcₙ (rpowIntegrand₀₁ p 1) (t⁻¹ • a) := by
          congr! 1
          refine cfcₙ_comp_smul (R := ℝ) t⁻¹ (fun x => rpowIntegrand₀₁ p 1 x) a ?_
          exact continuousOn_rpowIntegrand₀₁_Ici hp zero_lt_one |>.mono <|
            (h_mapsTo.mono_left hspec).image_subset 
```

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean [hunk 8]
```diff
@@ -283,20 +340,234 @@ lemma rpow_eq_const_mul_integral (hp : p ∈ Ioo 0 1) (hx : 0 ≤ x) :
...
+    ∃ μ : Measure ℝ, ∀ a ∈ Ici (0 : A),
+      (IntegrableOn (fun t => cfcₙ (rpowIntegrand₀₁ p t) a) (Ioi 0) μ)
+      ∧ a ^ p = ∫ t in Ioi 0, cfcₙ (rpowIntegrand₀₁ p t) a ∂μ := by
+  obtain ⟨μ, hμ⟩ := exists_measure_rpow_eq_integral hp
+  refine ⟨μ, fun a (ha : 0 ≤ a) => ?_⟩
+  by_cases hnontrivial : Nontrivial A
+  case neg =>
+    rw [not_nontrivial_iff_subsingleton] at hnontrivial
+    simp [Subsingleton.eq_zero a]
+  case pos =>
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean]:
```suggestion
  nontriviality A
```
and then un-indent the remainder of the proof.

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean [hunk 9]
```diff
@@ -283,20 +340,234 @@ lemma rpow_eq_const_mul_integral (hp : p ∈ Ioo 0 1) (hx : 0 ≤ x) :
...
+    have p_pos : 0 < (p : ℝ) := by exact_mod_cast hp.1
+    let f t := rpowIntegrand₀₁ p t
+    let maxr := sSup (quasispectrum ℝ a)
+    have maxr_nonneg : 0 ≤ maxr :=
+      le_csSup_of_le (b := 0) (IsCompact.bddAbove (by grind)) (by simp) (by simp)
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean]: It's maybe ever so slightly easier here and below to work with an abstract bound instead of the specific one. But it's not required.
```lean
  let ⟨maxr, hmax⟩ := quasispectrum.isCompact (𝕜 := ℝ) a |>.bddAbove
  have maxr_nonneg : 0 ≤ maxr := hmax (quasispectrum.zero_mem _ _)
```

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean [hunk 10]
```diff
@@ -283,20 +340,234 @@ lemma rpow_eq_const_mul_integral (hp : p ∈ Ioo 0 1) (hx : 0 ≤ x) :
...
+                  have hp' : p ≠ 0 := by grind [= lt_iff_le_and_ne]
+                  rw [nnrpow_def, cfcₙ_nnreal_eq_real]
+                  refine cfcₙ_congr ?_
+                  intro r hr
+                  have hp' : (p : ℝ) ∈ Ioo 0 1 := by exact_mod_cast hp
+                  have hr' : 0 ≤ r := by grind
+                  simp only [sup_of_le_left hr', NNReal.nnrpow_def, NNReal.coe_rpow, coe_toNNReal']
+                  exact (hμ r hr').2
+        _ = _ := cfcₙ_setIntegral measurableSet_Ioi _ bound a hf hmapzero hbound
+                    hbound_finite_integral ha.isSelfAdjoint
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean]: I think we should probably have this lemma that rewrites the pow in terms of the real cfc (we have this for `sqrt` already).
```lean
lemma foo {A : Type*} [PartialOrder A] [NonUnitalRing A] [TopologicalSpace A] [StarRing A]
    [Module ℝ A] [SMulCommClass ℝ A A] [IsScalarTower ℝ A A] [StarOrderedRing A]
    [NonUnitalContinuousFunctionalCalculus ℝ A IsSelfAdjoint] [NonnegSpectrumClass ℝ A] [T2Space A]
    [IsTopologicalRing A]
    {a : A} (ha : 0 ≤ a) {y : ℝ≥0} :
    a ^ y = cfcₙ (fun x : ℝ => x ^ (y : ℝ)) a := by
  rw [nnrpow_def, cfcₙ_nnreal_eq_real]
  refine cfcₙ_congr ?_
  intro x hx
  have : 0 ≤ x := by grind
  simp [this]
```
Then this chunk becomes:
```suggestion
  case integral => calc
    a ^ p = cfcₙ (fun r => ∫ t in Ioi 0, rpowIntegrand₀₁ p t r ∂μ) a := by
      rw [foo ha]
      exact cfcₙ_congr fun r _ ↦ (hμ r (by grind)).2
    _ = _ := cfcₙ_setIntegral measurableSet_Ioi _ bound a hf hmapzero hbound
                hbound_finite_integral ha.isSelfAdjoint
```
although I'm not sure about the indentation of that last line.

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean [hunk 11]
```diff
@@ -283,20 +340,234 @@ lemma rpow_eq_const_mul_integral (hp : p ∈ Ioo 0 1) (hx : 0 ≤ x) :
...
+end NonUnitalCFC
+
+section NonUnitalCStarAlgebra
+
+variable {A : Type*} [NonUnitalCStarAlgebra A] [PartialOrder A] [StarOrderedRing A]
+
+/-- `rpowIntegrand₀₁ p t` is operator monotone for all `p ∈ Ioo 0 1` and all `t ∈ Ioi 0`. -/
+lemma monotoneOn_cfcₙ_rpowIntegrand₀₁ {p : ℝ} {t : ℝ} (hp : p ∈ Ioo 0 1) (ht : 0 < t) :
+    MonotoneOn (cfcₙ (rpowIntegrand₀₁ p t)) (Ici (0 : A)) := by
+  have hmain : MonotoneOn (cfcₙ (fun x : ℝ => 1 - (1 + x)⁻¹)) (Ici (0 : A)) := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean]: You should just separate this out into another lemma. It can go next to the `ℝ≥0` version.

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean [hunk 12]
```diff
@@ -283,20 +340,234 @@ lemma rpow_eq_const_mul_integral (hp : p ∈ Ioo 0 1) (hx : 0 ≤ x) :
...
+            CFC.monotoneOn_one_sub_one_add_inv ha hb hab
+      _ = cfcₙ (fun x : ℝ => 1 - (1 + x)⁻¹) b := by
+            rw [cfcₙ_nnreal_eq_real _ hb]
+            refine cfcₙ_congr ?_
+            intro x hx
+            have hx' : 0 ≤ x := by grind
+            simp [hx']
+  intro a (ha : 0 ≤ a) b (hb : 0 ≤ b) hab
+  have ha' : IsSelfAdjoint a := ha.isSelfAdjoint
+  have hb' : IsSelfAdjoint b := hb.isSelfAdjoint
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean]:
```suggestion
```

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean [hunk 13]
```diff
@@ -283,20 +340,234 @@ lemma rpow_eq_const_mul_integral (hp : p ∈ Ioo 0 1) (hx : 0 ≤ x) :
...
+          gcongr
+          unfold rpowIntegrand₀₁
+          simp only [Real.one_rpow, one_mul, inv_one]
+          refine hmain ?_ ?_ (by gcongr)
+          · change 0 ≤ t⁻¹ • a
+            positivity
+          · change 0 ≤ t⁻¹ • b
+            positivity
+    _ = cfcₙ (rpowIntegrand₀₁ p t) b := by
+          rw [cfcₙ_rpowIntegrand₀₁_eq_cfcₙ_rpowIntegrand₀₁_one hp ht b hb]
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean]: personally, I think we should prefer sticking `calc` on its own line (or the previous one, when appropriate). That way the `by` blocks aren't indented a seemingly arbitrary amount.
```suggestion
  calc
    _ = t ^ ((p : ℝ) - 1) • cfcₙ (rpowIntegrand₀₁ p 1) (t⁻¹ • a) := by
      rw [cfcₙ_rpowIntegrand₀₁_eq_cfcₙ_rpowIntegrand₀₁_one hp ht a ha]
    _ ≤ t ^ ((p : ℝ) - 1) • cfcₙ (rpowIntegrand₀₁ p 1) (t⁻¹ • b) := by
      gcongr
      unfold rpowIntegrand₀₁
      simp only [Real.one_rpow, one_mul, inv_one]
      refine hmain (?_ : 0 ≤ t⁻¹ • a) (?_ : 0 ≤ t⁻¹ • b) (by gcongr)
      all_goals positivity
    _ = cfcₙ (rpowIntegrand₀₁ p t) b := by
      rw [cfcₙ_rpowIntegrand₀₁_eq_cfcₙ_rpowIntegrand₀₁_one hp ht b hb]
```

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean [hunk 14]
```diff
@@ -283,20 +340,234 @@ lemma rpow_eq_const_mul_integral (hp : p ∈ Ioo 0 1) (hx : 0 ≤ x) :
...
+    obtain (hp|hp)|hp := hp
+    · exact monotoneOn_nnrpow_Ioo hp ha hb hab
+    · simp only [mem_singleton_iff] at hp
+      simp [hp]
+    · simp only [mem_singleton_iff] at hp
+      simp only [hp]
+      have : (Ici 0).EqOn (fun a : A => a ^ (1 : ℝ≥0)) id := by
+        intro a ha
+        simp [nnrpow_one a]
+      simp [nnrpow_one a, nnrpow_one b, hab]
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean]:
```suggestion
    · simp_all [mem_singleton_iff]
    · simp_all [mem_singleton_iff, nnrpow_one a, nnrpow_one b]
```

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean [hunk 15]
```diff
@@ -283,20 +340,234 @@ lemma rpow_eq_const_mul_integral (hp : p ∈ Ioo 0 1) (hx : 0 ≤ x) :
...
+  · have : a ^ p = 0 := cfcₙ_apply_of_not_predicate a ha
+    simp [this]
+
+/-- `CFC.sqrt` is operator monotone. -/
+lemma monotone_sqrt : Monotone (sqrt : A → A) := by
+  have : CFC.sqrt (A := A) = fun a => a ^ ((1 : ℝ≥0) / 2) := by ext; exact CFC.sqrt_eq_nnrpow
+  rw [this]
+  exact monotone_nnrpow (by norm_num)
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean]:
```suggestion
  convert monotone_nnrpow (p := 1 / 2) (by norm_num) using 2
  exact CFC.sqrt_eq_nnrpow
```

**Review by j-loreaux — COMMENTED** [review]
Sorry it took me a while to work through this.

**Review by j-loreaux — COMMENTED** [review]
Sorry it took me a while to work through this.

File: Mathlib/Algebra/Algebra/Spectrum/Quasispectrum.lean (hunk 1 above)
Comment (dupuisf) [reply Mathlib/Algebra/Algebra/Spectrum/Quasispectrum.lean:405]: Yeah, this is purely for grind: I couldn't figure out how to put the grind annotation on the original lemma, so I just ended up duplicating it.

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean (hunk 4 above)
Comment (dupuisf) [reply Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean]: Let's just stick to the convention for now, but I would definitely be in favour of changing it.

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean (hunk 10 above)
Comment (dupuisf) [reply Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean]: Done.

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean (hunk 3 above)
Comment (dupuisf) [reply Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean]: Me too. See [this Zulip thread](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/fun_prop.20with.20grind.20as.20the.20discharger) about the issue preventing it from working.

File: Mathlib/Analysis/Normed/Algebra/Spectrum.lean (hunk 2 above)
Comment (dupuisf) [reply Mathlib/Analysis/Normed/Algebra/Spectrum.lean]: I did it for `IsCompact`, and I added some more general tags that should let grind find `IsBounded` and `IsClosed` from `IsCompact`.

File: Mathlib/Algebra/Algebra/Spectrum/Quasispectrum.lean (hunk 1 above)
Comment (j-loreaux) [reply Mathlib/Algebra/Algebra/Spectrum/Quasispectrum.lean:405]: I guess my question still remains: why not just fix the explicitness of the arguments in `NonnegSpectrumClass`?

Comment (dupuisf) [reply Mathlib/Algebra/Algebra/Spectrum/Quasispectrum.lean:405]: Binder explicitness is not the issue, I never managed to put the grind pattern on `NonnegSpectrumClass.quasispectrum_nonneg_of_nonneg` with any amount of fiddling.

**Comment by j-loreaux** [comment]
One question I asked about again, that didn't get resolved. But other than that I'm happy.

**Comment by j-loreaux** [comment]
bors merge
